* /home/aparna/tbc/microelectronic_circuits_:_theory_and_applications/ch2/ex2.2/example_2.2/example_2.2.cir

.include D.lib
v2  net-_r2-pad1_ gnd 10v
v1  gnd v 10v
d2 out net-_d1-pad2_ D1N750
d1 gnd net-_d1-pad2_ D1N750
r1  v net-_d1-pad2_ 10k
r2  net-_r2-pad1_ out 5k
.dc v2 0e-00 10e-00 1e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
