* /home/aparna/tbc/microelectronic_circuits_:_theory_and_applications/ch2/ex2.4/example_2.4/example_2.4.cir

.include D.lib
d1 out gnd D1N750
v1  net-_r1-pad2_ gnd 5v
r1  out net-_r1-pad2_ 1000
.dc v1 0e-00 5e-00 1e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
