* /home/aparna/tbc/old/ch3/ex3.1/example_3.1/example_3.1.cir

.include NPN.lib
v1 net-_r1-pad1_ gnd  dc 15
v2 gnd net-_r2-pad2_  dc 15
r1  net-_r1-pad1_ out 5k
r2  net-_q1-pad3_ net-_r2-pad2_ 7.07k
q1 out gnd net-_q1-pad3_ Q2N2222
.dc v2 0e-00 15e-00 15e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
